data/oMe_Silver.jsonl
{"reaction_id": "NR-241_1-CC=CCC_2-COCC_3-c1ccc(N(=O)=O)cc1_4-c1ccc(N(=O)=O)cc1","level": "medium","name": "Still-Gennari Reaction","reactants_smiles": ["CC=CCCC(=O)[H]","COCCOC(=O)CP(=O)(Oc1ccc(N(=O)=O)cc1)(Oc1ccc(N(=O)=O)cc1)","[N-]([Si](C)(C)C)[Si](C)(C)C"],"products_smiles": ["CC=CCC/C=C\\C(=O)OCOCC"],"conditions": "","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "COCCOC(=O)[CH-]P(=O)(Oc1ccc(N(=O)=O)cc1)(Oc1ccc(N(=O)=O)cc1)","step_weight": 0,"rationale": "The strong, non-nucleophilic base removes the acidic α-proton next to the phosphonate, stabilized by electron-withdrawing ester and phosphoryl groups via resonance and inductive effects."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "COCCOC(=O)C(P(=O)(Oc1ccc(N(=O)=O)cc1)(Oc1ccc(N(=O)=O)cc1))C([O-])CC=CCC","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon of the aldehyde, driven by the strong polarization of the C=O bond and minimal steric hindrance."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "COCCOC(=O)C1C(CC=CCC)OP1([O-])(Oc1ccc(N(=O)=O)cc1)(Oc1ccc(N(=O)=O)cc1)","step_weight": 0,"rationale": "Intramolecular cyclization to the oxaphosphetane is favored due to proximity effects and stabilization from the phosphoryl oxygen, locking in the (Z)-geometry."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "CC=CCC/C=C\\C(=O)OCOCC","step_weight": 0,"rationale": "Collapse of the oxaphosphetane eliminates the phosphate group, a good leaving group stabilized by resonance, to form the thermodynamically favored (Z)-alkene ester."}],"description": "A strong, non-nucleophilic base deprotonates the electron-withdrawing phosphonate to form a stabilized carbanion, which adds to the aldehyde. Rapid cyclization to an oxaphosphetane intermediate ensures (Z)-selectivity, followed by elimination of the phosphate to yield the (Z)-alkene ester."}
